US04220647
To a solution of 1-(N,N-diphenylaminomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (0.38 g) in anhydrous dichloromethane (15 ml) was dropwise added a solution of boron tribromide (0.75 g) in anhydrous dichloromethane (5 ml) at -60° C. with stirring. The mixture was stirred for 2.5 hours at the same temperature and the reaction temperature was elevated to ambient temperature over 19 hours. Dichloromethane was removed and to the residue were added methanol and a small amount of water. The mixture was warmed and concentrated to dryness. The residue was crystallized with a mixture of acetone and ether and the crystals were collected by filtration to give 1-(N,N-diphenylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (0.33 g).

reactant | 1-(N,N-diphenylaminomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.38 g | C1(=CC=CC=C1)N(C1=CC=CC=C1)CC1NCCC2=CC(=C(C=C12)OC)OC | C24H26N2O2
reactant | boron tribromide | 0.75 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(N,N-diphenylaminomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 0.33 g | Br.C1(=CC=CC=C1)N(C1=CC=CC=C1)CC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C22H22N2O2.BrH/c25-21-13-16-11-12-23-20(19(16)14-22(21)26)15-24(17-7-3-1-4-8-17)18-9-5-2-6-10-18;/h1-10,13-14,20,23,25-26H,11-12,15H2;1H
